US05834471
N-(4-Methoxy-3-(4-methyl-1-piperazinyl)phenyl)-4-fluorobenzamide
4-Fluorobenzoyl chloride (0.23 ml, 1.95 mmol) with 4-methoxy-3-(4-methyl-1-piperazinyl)phenylamine (400 mg, 1.95 mmol) in dry dichloromethane (40 ml) and triethylamine (1 ml) was stirred for 1 h. The solution was partitioned between dichloromethane (40 ml) and saturated aqueous potassium carbonate (40 ml), the organic solution dried (sodium sulphate) and evaporated to dryness under reduced pressure to afford an oil, which was purified by column chromatography (silica, chloroform,/methanol 5%) to afford the tide compound (595 mg, 89%) which was crystallised from methanol/diethyl ether as the oxalate salt.

reactant | 4-Fluorobenzoyl chloride | 1.95 mmol, 0.23 ml | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | 4-methoxy-3-(4-methyl-1-piperazinyl)phenylamine | 1.95 mmol, 400 mg | COC1=C(C=C(C=C1)N)N1CCN(CC1)C | C12H19N3O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
product | N-(4-Methoxy-3-(4-methyl-1-piperazinyl)phenyl)-4-fluorobenzamide | 595 mg, 89% | COC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)F)=O)N1CCN(CC1)C | C19H22FN3O2
